US08791303B2
To a solution of 5-[(4-benzyloxy-cyclohexyl)-hydroxy-methyl]-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone (1.5 g, 4.0 mmol) in acetone (3 ml) is added 2N aqueous hydrochloric acid (3 ml) and the mixture heated for 1 hour at 120° C. by microwave irradiation. The reaction mixtures is then diluted with water (20 ml) and extracted with ethyl acetate (3×15 ml). The combined organic extracts are dried over magnesium sulfate, filtered and evaporated under reduced pressure to give a brown gum. The gum is purified by flash chromatography eluting with hexane/ethyl acetate to give 4-[1-(4-Methoxy-cyclohexyl)-meth-(E)-ylidene]-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione as a colourless solid (0.32 g).

reactant | 5-[(4-benzyloxy-cyclohexyl)-hydroxy-methyl]-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone | 4.0 mmol, 1.5 g | C(C1=CC=CC=C1)OC1CCC(CC1)C(C1CC(=C(C1=O)C1=C(C=C(C=C1C)C)C)OC)O | C29H36O4
reactant | hydrochloric acid | 2N, 3 ml | Cl | ClH
solvent | acetone | 3 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
product | 4-[1-(4-Methoxy-cyclohexyl)-meth-(E)-ylidene]-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione | 0.32 g | COC1CCC(CC1)\C=C/1\C(C(C(C1)=O)C1=C(C=C(C=C1C)C)C)=O | C22H28O3
